US06444679B1
2-[4-(3-Methanesulfonylamino-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic Acid Diethylamide
To a stirring solution of 2-[4-(3-Amino-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid diethylamide (50 mg, 0.114 mmol) and pyridine (0.01 mL, 0.13 mmol) in 5 mL CH2Cl2 at −5° C. was added mesyl chloride (0.01 mL, 0.13 mmol). The reaction warmed to room temperature and stirred 48 hours. The mixture was quenched with NaHCO3 and extracted with CH2Cl2 (3×10 mL). The combined organic layers were dried and concentrated. Purification of the resulting crude material by flash chromatography with 5% MeOH/CH2Cl2 afforded the desired product (44 mg). 1HNMR (400 MHz, CDCl3) δ 8.73 (s, 2H), 7.24-7.17 (comp, 3H), 7.07 (d, 1H), 3.55-3.51 (comp, 2H), 3.33-3.27 (comp, 2H), 3.02-2.94 (comp, 2H), 2.91 (s, 3H), 2.88-2.86 (comp, 2H), 2.45 (br s, 2H), 2.20-2.15 (comp, 4H), 1.68 (br s, 1H), 1.37-1.21 (comp, 10H), 1.05-0.99 (comp, 1H), 0.91-0.83 (comp, 6H); MS (M+1) 516.3.

reactant | 2-[4-(3-Amino-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic acid diethylamide | 0.114 mmol, 50 mg | C(C)N(C(=O)C=1C=NC(=NC1)C1(CCN(CC1)CC(CCC)C)C1=CC(=CC=C1)N)CC | C26H39N5O
reactant | pyridine | 0.13 mmol, 0.01 mL | N1=CC=CC=C1 | C5H5N
reactant | mesyl chloride | 0.13 mmol, 0.01 mL | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[4-(3-Methanesulfonylamino-phenyl)-1-(2-methyl-pentyl)-piperidin-4-yl]-pyrimidine-5-carboxylic Acid Diethylamide | 44 mg | C(C)N(C(=O)C=1C=NC(=NC1)C1(CCN(CC1)CC(CCC)C)C1=CC(=CC=C1)NS(=O)(=O)C)CC | C27H41N5O3S
